Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Gait instability, vertigo, diplopia, and left facial numbness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old right handed man with past history
of alcohol dependence, hypertension, hyperlipidemia, question of 
paroxysmal Afib and one previous episode of vertigo who 
presented with new onset gait instability.  Per report,
the patient was in his usual state of health recently with no
specific complaints on the evening of ___ when going to
sleep.  He awoke around 0600hrs on ___ still without any
symptoms and noted that after urinating in the bathroom around
0630hrs, the patient developed some vertiginous sensation,
vertical diplopia (which he did not check to see if it cleared
with closing one eye) and had significant difficulty with
balance.  He reported catching himself from falling on the door
and radiator of the bathroom (with no headstrike), and sat on 
the
side of the tub. After ___ minutes, his vertiginous symptoms and
diplopia resolved, and he was able to make his way back to bed
and tried to sleep it off, telling his wife about these symptoms
at 0730hrs.  At 1130hrs, per his daughter who lives with the
patient's report, the patient's wife noted to her that she
thought the patient was more dysarthric (has a stutter at
baseline) and also she thought there was a slight droop in the
patient's left mouth. 

The daughter who accompanied him to the ___ could not confirm
this finding, but did note that his voice was more dysarthric
than usual; she noted having some difficulty in understanding
him.  However, even with these changes he stayed at home trying
to sleep off the symptoms until ___ at which time he was eating
and noted weakness and numbness in the left face, and reported
that while eating, he could not determine the temperature of the
food it was eating, and that the taste was decreased.  He denied
any difficulty with swallowing or chewing. He noted this facial
sensory change was episodic which by the time that he reached 
the
ED around 1730hrs was normal. 
 
On neuro ROS, the pt denies headache, loss of vision, blurred
vision, dysphagia, lightheadedness, tinnitus or hearing
difficulty. Denies difficulties comprehending speech.  Denies
parasthesiae. No bowel or bladder incontinence or retention. 
 
On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
- Alcoholism, cut down significantly but drinks ___ beers / day
still per daughters.
- Hypertension
- Vitamin B12 deficiency
- Hyperlipidemia
- ?Paroxysmal Atrial Fibrilation

 
Social History:
___
Family History:
- Positive for Graves Disease in Mother and Type I Diabetes in
family, negative for any neurologic disease including stroke,
migraine, or other issues.

 
Physical Exam:
ADMISSION PHYSICAL EXAM

Vitals:
Pain=0, T=96.8F, HR=64, BP=143/78, RR=18, SaO2=97% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, mild left NLF droop, poor dentition
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: CTABL
Cardiac: RRR, no murmurs or ectopy on EKG or Telemetry
Abdomen: soft, nontender, nondistended
Extremities: no edema, pulses palpated
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Language is fluent with intact repetition
and comprehension.  Some stuttering responses which per family 
is
consistent with baseline.  There were no paraphasic errors.  Pt.
was able to name both high and low frequency objects.  Able to
read without difficulty.  Speech was dysarthric per family
(speech with thick ___ accent at baseline).  Able to
follow both midline and appendicular commands.  Attentive, with
good knowledge of current events.  There was no evidence of
apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 4 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation. 
III, IV, VI: EOMI with end gaze horizontal nystagmus 
bilaterally.
Saccadic intrusions.
V: Facial sensation intact to light touch, pinprick which was
100% on the right face and 95% in V2/V3 distributions (too
bilaterally on V1), and ___ strength noted bilateral in masseter
VII: Mild NLF blunting with minimal decreased excursion of the
left mouth.  Otherwise facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally 
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline, and is equal ___ strength
bilaterally as evidenced by tongue-in-cheek testing.

 
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. Tremor noted worse in left extremities. No 
asterixis
noted.
 Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___
L  ___   ___  ___   5   5    5     5   5
R  ___   ___  ___   5   5    5     5   5
 
-DTRs:
    Bi  Tri  ___  Pat  Ach
L   3    2     3     3    3
R   3    2     3     3    3
- Plantar response was flexor bilaterally.
- Pectoralis Jerk and Crossed Adductors are present bilaterally. 

 
-Sensory: Mild decrease in temperature/pinprick in left hemibody
100% right / 95% left. Mild decrease in temperature/pinprick on
face 100% right / 95% left in V2/V3 distributions per patient. 
No
extinction to DSS.

-Coordination: Tremor worse in left, dysdiadochokinesia and
dysmetria noted in left FNF, RAM. 

-Gait: Good initiation. Narrow-based, with limited stride and 
arm
swing and held on to wall or examiner. Romberg absent.

DISCHARGE  NEUROLOGIC EXAM

Neurologic:
-Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Language is fluent with intact repetition
and comprehension. Speech mildly dysarthric. Able to
follow both midline and appendicular commands.  

-Cranial Nerves:
II: PERRL 4 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation. 
III, IV, VI: EOMI with end gaze horizontal nystagmus 
bilaterally.
Saccadic intrusions.
V: Facial sensation intact to light touch, reports slight 
numbness in L face. ___ strength noted bilateral in masseter
VII: Mild NLF blunting with minimal decreased excursion of the
left mouth.  Otherwise facial musculature symmetric 
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline, and is equal ___ strength
bilaterally as evidenced by tongue-in-cheek testing.

 
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. Intention tremor noted worse in left extremities. 
No asterixis
noted.
 Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___
L  ___   ___  ___   5   5    5     5   5
R  ___   ___  ___   5   5    5     5   5
 
-DTRs:
    Bi  Tri  ___  Pat  Ach
L   3    2     3     3    3
R   3    2     3     3    3
- Plantar response was flexor bilaterally.
 
-Sensory: Mild decrease in sensation on L side to PP. No
extinction to DSS.

-Coordination: Tremor worse in left, dysdiadochokinesia and
dysmetria noted in left upper extremity FNF, RAM.  He has a 
positive rebound R>L 

-Gait: Good initiation. Narrow-based, normal stride. Romberg 
absent.

 
Pertinent Results:
___ 05:10PM   WBC-7.6 RBC-4.57* HGB-14.4 HCT-42.8 MCV-94 
MCH-31.5 MCHC-33.6 RDW-14.6
___ 05:10PM   PLT SMR-LOW PLT COUNT-145___ 05:10PM   GLUCOSE-133* UREA N-18 CREAT-1.5* SODIUM-141 
POTASSIUM-5.4* CHLORIDE-103 TOTAL CO2-21* ANION GAP-22*

NCHCT: No acute intracranial abnormalities identified.

MRI / MRA IMPRESSION: 
1. Acute right superior cerebellar peduncle and adjacent 
superior cerebellar infarct.  No hemorrhage or mass effect seen. 
 
2. MRA of the neck shows diffuse atherosclerotic disease of the 
right 
vertebral artery.  
3. MRA of the head shows no significant abnormalities or major 
vascular 
occlusion stenosis or aneurysm greater than 3 mm in size. 

Head CT

FINDINGS:  There is no evidence of an acute intracranial 
hemorrhage, mass, 
mass effect or infarction.  Mildly prominent ventricles and 
sulci are likely 
secondary to age-related involutional changes.  The basilar 
cisterns are 
patent.  The gray-white matter differentiation is otherwise 
preserved. 
  
IMPRESSION:  No acute intracranial abnormalities identified. 

 
Brief Hospital Course:
___ is a ___ right handed man with a history of
alcohol dependence, hypertension, hyperlipidemia and one 
previous
episode of vertigo who presented to the ED over the weekend on
the urging of his family members. On the morning of ___, he
developed vertigo, vertical diplopia and ataxia. He had to
hold on to objects around him to walk steadily. He went back to
bed, but then when he woke up, he was noted to be more 
dysarthric
than baseline and there was a question of a left facial droop.
Later on that evening, he had difficulty with numbness on the
left side of his face, and also noticed that he had difficulty
noticing the temperature of foods in his mouth. 

At home, he takes atenolol, HCTZ, thiamine and B12. He has had
difficulties with EtOH dependence in the past, but more 
recently,
it appears that his habit has come under better control. Please
see the admission note for more details. 

Ultimately, he made it to the ED where he was hypertensive to
143/78, and the neurological examination was notable for
dysarthria with left facial droop. He had end-gaze nystagmus 
with
normal hearing. He had normal strength and sensation, and he had
dysmetria on finger-nose testing on the left arm. His NCHCT
identified some mild volume loss that was diffuse.
 
While he has been on our service, he received an MRI and MRA 
(his
admission creatinine was elevated to 1.5). The MRI identifies a
locus of restricted diffusion centered on the right superior
cerebellar peduncle consistent with a partial SCA infarction. 
The
MRA identified no flow along the course of the left vertebral
artery. The basilar artery appears fenestrated but perhaps this
could be artifactual. Labs here have shown an elevated
cholesterol level, with LDL of 139. His A1c is normal. 

He had an echocardiogram in ___ that did not raise concern
for an atrial shunt, though this was not done with bubble study.
Overall, the story and objective findings are consistent with
intracranial atherosclerosis, resulting in an artery-artery
embolism to the right SCP. His risk factors need to be better
addressed. 
- ___ recommendations discharge to home
- During this admission, we have started ASA 325mg and
atorvastatin 40mg daily, which he should take together with his
HCTZ and atenolol.
- Repeat Cr has nicely come down to 1.2. 
- Close follow up with PCP ___
- ___ up with Dr. ___ in stroke clinic 

 
Medications on Admission:
- Atenolol 50mg daily
- hydrochlorothiazide 12.5mg daily
- Cyanocobalamin (vitamin B-12) 1,000mcg daily
- Thiamine 100mg daily

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3
2. Atorvastatin 40 mg PO HS 
RX *atorvastatin 40 mg 1 tablet(s) by mouth nightly Disp #*30 
Tablet Refills:*3
3. Cyanocobalamin 100 mcg PO DAILY 
RX *cyanocobalamin (vitamin B-12) 100 mcg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*3
4. FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3
5. Thiamine 100 mg PO DAILY 
RX *thiamine HCl 100 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3
6. Atenolol 50 mg PO DAILY 
RX *atenolol 50 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3
7. Hydrochlorothiazide 12.5 mg PO DAILY 
RX *hydrochlorothiazide 12.5 mg 1 capsule(s) by mouth daily Disp 
#*30 Tablet Refills:*3

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
R cerebellar peduncle stroke in the superior cerebellar artery 
vascular bed

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you while you were at ___ 
___.  You came in with symptoms of 
vertigo - that the room was spinning around you, as well as 
double vision, left facial numbness and decreased temperature 
sensation, and imbalance.  You have many risk factors for having 
a stroke, including high blood pressure, high cholesterol, and 
possible atrial fibrillation.  Because of your symptoms and your 
multiple risk factors, we were concerned that you were having a 
stroke - an episode in which you do not get enough oxygen to a 
specific area in your brain.  Because of our concerns, you were 
admitted to the hospital.  While you were here we did several 
tests.  We used a CT and MRI scanner to look at your brain, 
which showed us that you had a stroke in the right cerebellar 
peduncle - an area in the brain that would account for the 
symptoms you were having.  

We also did a workup to determine your risk factors for stroke.  
We found that you have high cholesterol (LDL of 151), but do not 
have diabetes. You did not have evidence of Afib on this 
admission. As you had recently had a echocardiogram in ___, 
we did not reimage your heart on this admission.

Because of your stroke, we will recommend you take an aspirin 
daily.  You are also prescribing you atorvastatin -  a 
medication for high cholesterol.  We want you to have close 
follow up with your primary care provider, who will help you 
maintain good control of your blood pressure.  
 
Followup Instructions:
___